US20010047031A1
(2R, 3R) or (2S 3R)-4-[1-(2-Hydroxy-4-phenyl-butyl)-pyrrolidin-3-yl-sulfanyl]-phenol
The title compound, MS: m/e=344.4 (M+H+) was prepared from (R)-4-(pyrrolidin-3-yl--sulfanyl)-phenol trifluoro-acetic acid and (RS)-2-phenethyl-oxirane.

reactant | (R)-4-(pyrrolidin-3-yl--sulfanyl)-phenol trifluoro-acetic acid | FC(C(=O)O)(F)F.N1C[C@@H](CC1)SC1=CC=C(C=C1)O
reactant | (RS)-2-phenethyl-oxirane | C(CC1=CC=CC=C1)C1OC1 | C10H12O
product | (2S 3R)-4-[1-(2-Hydroxy-4-phenyl-butyl)-pyrrolidin-3-yl-sulfanyl]-phenol | O[C@H](CN1C[C@@H](CC1)SC1=CC=C(C=C1)O)CCC1=CC=CC=C1 | C20H25NO2S
